US05359085
(1) Synthesis of 3-acetyl-1,2-dimethylindole
To a solution of 6 moles of N,N-dimethylacetamide and cooled at 0° C., 1.5 moles of phosphorus oxychloride was added dropwise in 30 minutes with stirring. After further adding 1 mole of 1,2-dimethylindole thereto, the reaction was carried out at 85°-90° C. for 2 hours. Then, the reaction solution was poured into 2 liters of ice water. The reaction solution was made alkaline, extracted with 0.5 liter of ethyl acetate, washed with water, dried over anhydrous sodium sulfate, and concentrated. The residue was recrystallized from ethyl acetate to give yellow crystals in yield of 80%.

reactant | N,N-dimethylacetamide | 6 moles | CN(C(C)=O)C | C4H9NO
reactant | phosphorus oxychloride | 1.5 moles | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,2-dimethylindole | 1 mole | CN1C(=CC2=CC=CC=C12)C | C10H11N
product | 3-acetyl-1,2-dimethylindole | yield of 80% | C(C)(=O)C1=C(N(C2=CC=CC=C12)C)C | C12H13NO
